US07001917B2
Step 1. 2-[4-(3-Ethyl-5-methyl-1H-pyrazol-1-yl)phenyl]ethanol
To a stirred solution of propionyl chloride (0.87 mL, 10 mmol) in ether (10 mL) was added a propynylmagnesium bromide 0.5 M solution in tetrahydrofuran (22 mL, 11 mmol) at 0° C. The resulting mixture was stirred at 0° C. for 1 h and then potassium bicarbonate was added. After filtered, ethanol (30 mL) and 2-(4-hydrazinophenyl)ethanol hydrochloride (490 mg, 2.5 mmol) were added. The mixture was heated under reflux overnight. After removal of the solvent, the resulting residue was partitioned between dichloromethane and water. Organic phase was washed with brine and dried (Na2SO4). After removal of the solvent, the crude product was purified by TLC with hexane/ethyl acetate (1:1) to afford 155 mg (27%) of the title compound as yellow oil: MS (EI) m/z 230 [M]+, 1H-NMR (CDCl3) δ 7.37-7.30 (4H, m), 6.02 (1H, s), 3.87 (2H, br.s), 2.91 (2H, br.s), 2.67 (2H, q, 6.5 Hz), 2.30 (3H, s), 1.27 (3H, t, 6.5 Hz).

reactant | propionyl chloride | 10 mmol, 0.87 mL | C(CC)(=O)Cl | C3H5ClO
reactant | propynylmagnesium bromide | 0.5 M | C(#CC)[Mg]Br
reactant | tetrahydrofuran | 11 mmol, 22 mL | O1CCCC1 | C4H8O
reactant | potassium bicarbonate | C([O-])(O)=O.[K+]
reactant | 2-(4-hydrazinophenyl)ethanol hydrochloride | 2.5 mmol, 490 mg | Cl.N(N)C1=CC=C(C=C1)CCO
solvent | ether | 10 mL | CCOCC | C4H10O
solvent | ethanol | 30 mL | C(C)O | C2H6O
product | 2-[4-(3-Ethyl-5-methyl-1H-pyrazol-1-yl)phenyl]ethanol | 155 mg, 27% | C(C)C1=NN(C(=C1)C)C1=CC=C(C=C1)CCO | C14H18N2O
